US07273946B2
A) Preparation of Ferulic acid 4-(bromo)butyl ester
To a solution of ferulic acid (1 g, 5.15 mmol) in tetrahydrofurane (40 ml), triphenylphosphine (2.7 g, 10.3 mmol) and tetrabromomethane (3.41 g, 10.3 mmol) were added. The mixture was stirred at room temperature for 4 hours. The mixture was filtered and the solvent was evaporated under vacuum. The crude residue was purified by silica gel chromatography, eluent n-hexane/ethyl acetate 7/3. The product (0.77 g) was obtained as a yellow solid. (Yield 46%)

reactant | ferulic acid | 5.15 mmol, 1 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | triphenylphosphine | 10.3 mmol, 2.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tetrabromomethane | 10.3 mmol, 3.41 g | BrC(Br)(Br)Br | CBr4
solvent | tetrahydrofurane | 40 ml | O1CCCC1 | C4H8O
product | Ferulic acid 4-(bromo)butyl ester | 0.77 g, Yield 46% | BrCCCCOC(\C=C\C1=CC(OC)=C(O)C=C1)=O | C14H17BrO4
